US08895313B2
4-Nitro-3-trifluoromethyl-N-[4-(6-hydroxybenzothiazol-2-yl)-phenyl]-benzamide
Prepared as described in the Demethylation section using 4-nitro-3-trifluoromethyl-N-[4-(6-methoxybenzothiazol-2-yl)-phenyl]-benzamide (0.10 g, 0.21 mmol) in dry DCM (10 ml) and BBr3 (1.0 M solution in DCM, 1.1 ml, 1.1 mmol) to give the title compound (0.07 g, 71%) as a yellow solid after work-up and flash chromatography (3:1 EtOAc/Hexane).

reactant | 4-nitro-3-trifluoromethyl-N-[4-(6-methoxybenzothiazol-2-yl)-phenyl]-benzamide | 0.21 mmol, 0.10 g | [N+](=O)([O-])C1=C(C=C(C(=O)NC2=CC=C(C=C2)C=2SC3=C(N2)C=CC(=C3)OC)C=C1)C(F)(F)F | C22H14F3N3O4S
reactant | BBr3 | 1.1 mmol, 1.0 M, 1.1 ml | B(Br)(Br)Br | BBr3
reactant | EtOAc Hexane | CCOC(=O)C.CCCCCC
solvent | DCM | 10 ml | C(Cl)Cl | CH2Cl2
product | 4-Nitro-3-trifluoromethyl-N-[4-(6-hydroxybenzothiazol-2-yl)-phenyl]-benzamide | 0.07 g, 71% | [N+](=O)([O-])C1=C(C=C(C(=O)NC2=CC=C(C=C2)C=2SC3=C(N2)C=CC(=C3)O)C=C1)C(F)(F)F | C21H12F3N3O4S
